US04039543
12.9 G. of 3,5-bis(dimethylamino)-4-piperidinobenzyl alcohol, 17.1 g. of activated manganese dioxide and 80 ml. of chloroform were mixed together and stirred at room temperature for 48 hours. The manganese dioxide was filtered off, washed with chloroform and the chloroform evaporated. After purification over aluminum oxide with benzene and recrystallization from ethanol, there was obtained 3,5-bis(dimethylamino)-4-piperidinobenzaldehyde having a melting point of 114°-116° C.

reactant | 3,5-bis(dimethylamino)-4-piperidinobenzyl alcohol | CN(C=1C=C(CO)C=C(C1N1CCCCC1)N(C)C)C | C16H27N3O
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,5-bis(dimethylamino)-4-piperidinobenzaldehyde | CN(C=1C=C(C=O)C=C(C1N1CCCCC1)N(C)C)C | C16H25N3O
